* C:\Users\USUARIO\Documents\GitHub\WaveShaperAD9833\Circuito_1.wxsch
*#SIMETRIX
V1 Vcc 0 18
V2 Vee 0 -18
R1 R1_P R1_N 19.6k
V3 VIN_8422 0 0 Sin(500m 450m 500k 0 0)
R2 VOUT_8422 0 10Meg
V4 VIN_8421 0 5 Sin(500m 450m 500k 0 0)
R3 R3_P R3_N 9.801k
R4 VOUT_8421 0 10Meg
X$U1 0 R1_P R1_N VIN_8422 Vee 0 VOUT_8422 Vcc AD8422 pinnames: IN- RG1 RG2 IN+ VS- REF OUT VS+
X$U2 0 R3_P R3_N VIN_8421 Vee 0 VOUT_8421 Vcc AD8421 pinnames: IN- RG1 RG2 IN+ VS- REF OUT VS+
.GRAPH VIN_8421 curveLabel= VIN_8421 nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.GRAPH VOUT_8421 curveLabel= VOUT_8421 nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.GRAPH VIN_8422 curveLabel= VIN_8422 nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.GRAPH VOUT_8422 curveLabel= VOUT_8422 nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.TRAN 300u

