* C:\Users\USUARIO\Documents\GitHub\WaveShaperAD9833\Circuito_1.wxsch
*#SIMETRIX
V1 Vcc 0 18
V2 Vee 0 -18
R1 VOUT_ADG849 0 10Meg
V3 V3_P 0  Pulse(0 5 0 500n 500n 50u 100u)
V4 VIN_8421 0 5 Sin(500m 450m 500k 0 0)
R3 R3_P R3_N 9.801k
V5 +5V 0 5
X$U1 V3_P +5V 0 VOUT_8421 VOUT_ADG849 0 ADG849 pinnames: IN VDD GND S1 D S2
X$U2 0 R3_P R3_N VIN_8421 Vee 0 VOUT_8421 Vcc AD8421 pinnames: IN- RG1 RG2 IN+ VS- REF OUT VS+
.GRAPH VIN_8421 curveLabel= VIN_8421 nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.GRAPH VOUT_8421 curveLabel= VOUT_8421 nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.GRAPH VOUT_ADG849 curveLabel= VOUT_ADG849 nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.TRAN 300u

