* C:\Users\USUARIO\Documents\GitHub\WaveShaperAD9833\Circuito_1.wxsch
*#SIMETRIX
X1 VOUT_AD8421_2 VOUT_FINAL Vcc Vee X1_out Q2_B AD844 pinnames: inp inn vsp vsn out gnd
V1 Vcc 0 18
V2 Vee 0 -18
R1 R1_P R1_N 1.523k
V3 V3_P 0  Pulse(0 5 0 500n 500n 50u 100u)
R2 VOUT_FINAL 0 1k
V4 VIN_8421 0 5 Sin(500m 450m 500k 0 0)
R3 R3_P R3_N 9.801k
V5 +5V 0 5
X$U2 0 R3_P R3_N VIN_8421 Vee 0 VOUT_8421 Vcc AD8421 pinnames: IN- RG1 RG2 IN+ VS- REF OUT VS+
Q1 Vcc Q2_B VOUT_FINAL 0 BC107
X$U3 0 R1_P R1_N VOUT_ADG849 Vee 0 VOUT_AD8421_2 Vcc AD8421 pinnames: IN- RG1 RG2 IN+ VS- REF OUT VS+
Q2 Vee Q2_B VOUT_FINAL 0 BC160
X$U4 V3_P +5V 0 VOUT_8421 VOUT_ADG849 0 ADG819 pinnames: IN VDD GND S1 D S2
.GRAPH VOUT_AD8421_2 curveLabel= VOUT_AD8421_2 nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.GRAPH V3_P curveLabel= U1-IN nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.GRAPH VOUT_FINAL curveLabel= VOUT_FINAL nowarn=true ylog=auto xlog=auto analysis=tran|ac|dc disabled=false 
.TRAN 300u

